US07091372B2
A solution of 3-(ethoxy-hydroxy-methylene)-3H-indene-1-carbonitrile, sodium salt, (1.00 g, 4.70 mmol) in ethanol (40 mL) in a pressure reactor was purged with nitrogen for 5 minutes and charged with 5% palladium on carbon (1.00 g, 0.230 mmol) and formic acid (0.180 mL, 4.70 mmol), pH=5 at reaction initiation. The pressure reactor was purged with nitrogen and evacuated three times, then purged with hydrogen and evacuated three times before charging the bomb with hydrogen at a pressure of 50 psi (3.4 atmospheres) and mechanically shaking. After 2 hours the reactor was evacuated and purged with nitrogen three times before filtering the reaction mixture through a nylon disk. Azeotropic removal of formic acid in vacuo with ethanol and concentrating in vacuo afforded 3-cyano-indan-1-carboxylic acid ethyl ester as a light yellow solid (880 mg, 87%). 1H NMR (400 MHz, CD3CN) δ 7.47–7.45 (m, 2H), 7.37–7.35 (m, 2H), 4.28 (t, 1H, J=8.0), 4.20 (m, 2H), 4.16 (t, 1H, J=3), 2.80 (m, 1H), 2.60 (m, 1H), 1.27 (t, 3H, J=7.2); 13C NMR (100 MHz, CD3CN) δ 172.3, 140.8, 138.5, 129.0, 128.7, 125.4, 124.7, 117.6, 61.3, 48.9, 33.4, 33.3, 13.8; 13C NMR (100 MHz, d4-MeOH) δ 172.6, 140.4, 138.1, 129.0, 128.8, 125.4, 124.7, 120.9, 61.4, 48.9, 33.2, 33.1, 13.4; IR (ATR, neat) 1732, 1478, 1457, 1370, 1324, 1263, 1208, 1180, 1035, 747.

reactant | 3-(ethoxy-hydroxy-methylene)-3H-indene-1-carbonitrile | C(C)OC(=C1C=C(C2=CC=CC=C12)C#N)O | C13H11NO2
reactant | sodium | 4.70 mmol, 1.00 g | [Na] | Na
reactant | formic acid | 4.70 mmol, 0.180 mL | C(=O)O | CH2O2
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.230 mmol, 1.00 g | [Pd] | Pd
product | 3-cyano-indan-1-carboxylic acid ethyl ester | 880 mg, 87% | C(C)OC(=O)C1CC(C2=CC=CC=C12)C#N | C13H13NO2
